US07612099B2
N-(2-{2-[(2-Hydroxy-5-oxo-cyclopent-1-enyl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 3-hydroxy-cyclopent-2-enone (Lit. 16) was reacted with benzaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-acetamide to give the title compound as a pink solid. MS: 387.4 ([M−H]−).

reactant | 3-hydroxy-cyclopent-2-enone | OC1=CC(CC1)=O | C5H6O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(1H-indol-3-yl)-ethyl]-acetamide | N1C=C(C2=CC=CC=C12)CCNC(C)=O | C12H14N2O
product | N-(2-{2-[(2-Hydroxy-5-oxo-cyclopent-1-enyl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-acetamide | OC1=C(C(CC1)=O)C(C=1NC2=CC=CC=C2C1CCNC(C)=O)C1=CC=CC=C1 | C24H24N2O3
